US05932752
In this example, inverse electron demand D-A reaction of acrolein with 3,4-tetrahydropyran is described. The procedure involves refluxing of 0.056 g of acrolein, 1.68 g of tetrahydropyran and 0.30 g of the catalyst prepared according to example 1 above in 10 ml of benzene at 60 (C 20 h. The catalyst was filtered off. After evaporation of solvent, the residue was chromatographed over silica gel column by eluting with 5% acetone/petroleum ether to give 0.12 g of endo adduct, 1,9-dioxabicyclo[4.4.05,10 ]dec-2-ene

reactant | acrolein | C(=O)C=C | C3H4O
reactant | acrolein | 0.056 g | C(=O)C=C | C3H4O
reactant | tetrahydropyran | 1.68 g | O1CCCCC1 | C5H10O
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | dec-2-ene | CC=CCCCCCCC | C10H20
